US07414045B2
Step 1b: Dimethyl 2-(benzyloxy)-3-oxosuccinate
A solution of methyl(benzyloxy)acetate (1 eq) and dimethyl oxalate (1.2 eq) in dry THF was cooled to −78° C. and LDA (2M in THF-heptane, 1.2 eq) was added dropwise. After stirring for an hour the cold bath was removed, and stirring was continued for an additional hour. The reaction was quenched at 0° C. by pouring into cold 1N aq HCl, and the aqueous phase was extracted with EtOAc; the organic layer was washed with brine, dried and concentrated to give a crude that was used without further purification.

reactant | methyl(benzyloxy)acetate | 1 eq | COC(COCC1=CC=CC=C1)=O | C10H12O3
reactant | dimethyl oxalate | 1.2 eq | C(C(=O)OC)(=O)OC | C4H6O4
reactant | LDA | 2M, 1.2 eq | [Li+].CC(C)[N-]C(C)C
solvent | THF | C1CCOC1 | C4H8O
product | Dimethyl 2-(benzyloxy)-3-oxosuccinate | C(C1=CC=CC=C1)OC(C(=O)OC)C(C(=O)OC)=O | C13H14O6
